US08044206B2
tert-Butyl 3-cyano-8-azabicyclo[3.2.1]octane-8-carboxylate was reacted in the presence of diisobutyl aluminum hydride in tetrahydrofuran to produce tert-butyl 3-formyl-8-azabicyclo[3.2.1]octane-8-carboxylate.

reactant | tert-Butyl 3-cyano-8-azabicyclo[3.2.1]octane-8-carboxylate | C(#N)C1CC2CCC(C1)N2C(=O)OC(C)(C)C | C13H20N2O2
reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | tert-butyl 3-formyl-8-azabicyclo[3.2.1]octane-8-carboxylate | C(=O)C1CC2CCC(C1)N2C(=O)OC(C)(C)C | C13H21NO3
